US09326987B2
2-Methyl-N-(1-methyl-6-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-indazol-4-yl)-1,3-thiazole-4-carboxamide
1-Methyl-6-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-indazol-4-amine (75 mg) and pyridine (0.029 ml) were added to DCM (5 ml) under stirring at RT under nitrogen. 2-Methyl-1,3-thiazole-4-carbonyl chloride (38 mg) was added into the reaction mixture. The reaction mixture was partitioned between water (20 ml) and DCM (20 ml).

reactant | 1-Methyl-6-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-indazol-4-amine | 75 mg | CN1N=CC=2C(=CC(=CC12)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)N | C22H19N5O2S
reactant | pyridine | 0.029 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-Methyl-1,3-thiazole-4-carbonyl chloride | 38 mg | CC=1SC=C(N1)C(=O)Cl | C5H4ClNOS
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-N-(1-methyl-6-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-indazol-4-yl)-1,3-thiazole-4-carboxamide | CC=1SC=C(N1)C(=O)NC1=C2C=NN(C2=CC(=C1)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C | C27H22N6O3S2
